US06218427B1
4-Methoxyphenyl boric acid and methyl 2-(benzo[1,3]dioxol-5-yl)-4-(trifluoromethanesulfonyloxy)-2H-chromen-3-carboxylate (III-5) synthesized from the compound (II-3) by a similar method as described in Reference Example 2 were reacted in a similar manner as described in Example 18 to give methyl 2-(benzo[1,3]dioxol-5-yl)-4-(4-methoxy-phenyl)-2H-chromen-3-carboxylate (Ia-4).

reactant | 4-Methoxyphenyl boric acid | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
reactant | methyl 2-(benzo[1,3]dioxol-5-yl)-4-(trifluoromethanesulfonyloxy)-2H-chromen-3-carboxylate | O1COC2=C1C=CC(=C2)C2OC1=CC=CC=C1C(=C2C(=O)OC)OS(=O)(=O)C(F)(F)F | C19H13F3O8S
product | methyl 2-(benzo[1,3]dioxol-5-yl)-4-(4-methoxy-phenyl)-2H-chromen-3-carboxylate | O1COC2=C1C=CC(=C2)C2OC1=CC=CC=C1C(=C2C(=O)OC)C2=CC=C(C=C2)OC | C25H20O6
